US07642291B2
After dissolving (E)-benzaldehyde oxime (3.0 g, 25 mmol) in CH2Cl2 (30 ml), N-chlorosuccinimide (3.4 g, 25 mmol) was slowly added at 0° C. After stirring reaction solution for 2 hours, the reaction was completed by adding water (20 ml), and the reaction solution was extracted with dichloromethane. A pure compound of (E)-1-chloro-benzaldehyde oxime (3.30 g, 85%) was obtained by separating the residue with silica gel column chromatography. After dissolving the (E)- and (Z)-oxime mixtures (1.5 g, 9.64 mmol) in CH2Cl2 (30 ml), benzoylchloride (1.45 ml, 12.53 mmol) was slowly added at 0° C. under the presence of triethylamine (1.75 ml, 12.53 mmol). After stirring reaction solution for 1 hour, the reaction was quenched by 1 N hydrochloric acid, and the reaction solution was extracted with dichloromethane. A pure compound of (E)-1-chloro-benzaldehyde O-benzoyloxime (15) (1.9 g, 76%) was obtained by separating the residue with silica gel column chromatography.

reactant | (E)-benzaldehyde oxime | 25 mmol, 3.0 g | C(\C1=CC=CC=C1)=N/O | C7H7NO
reactant | N-chlorosuccinimide | 25 mmol, 3.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | 20 ml | O | H2O
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | (E)-1-chloro-benzaldehyde oxime | 3.30 g, 85% | ClC1(/C=N/O)CC=CC=C1 | C7H8ClNO
